US08377957B2
4-Chloro-1-(pyridin-3-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol (2.64 g, 8.52 mmol) and ammonia (40 mL of a 7 N solution in methanol) were added to a high-pressure vessel, which was sealed and heated in an oven at 165° C. for 42 hours and allowed to cool. A solid was present and was isolated by filtration washed with diethyl ether to provide 1.2 g of 4-amino-1-(pyridin-3-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol. A second crop of solid (550 mg) was collected from the filtrate. A portion of the first crop was washed with dichloromethane, methanol, diethyl ether, and acetonitrile to provide a sample as tan needles, mp greater than 250° C.

reactant | 4-Chloro-1-(pyridin-3-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol | 8.52 mmol, 2.64 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC=2C=NC=CC2)O | C16H11ClN4O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-1-(pyridin-3-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol | 1.2 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC=2C=NC=CC2)O | C16H13N5O
